US04695295
Preparation of 2-(n-Butyl)-2-Oxazoline
A mixture of about 83.1 grams (1.00 mole) valeronitrile, about 64.8 grams (1.05 mole) ethanolamine, and about 6.2 grams (0.025 mole) cadmium acetate dihydrate is heated at about 124 degrees C. to about 128 degrees C. and stirred under nitrogen for about two days. The product is then distilled under vacuum. The fraction boiling at about 67 degrees C. to about 75.5 degrees C. at about 28 mmHg is collected.

reactant | valeronitrile | 1.00 mole, about 83.1 grams | C(CCCC)#N | C5H9N
reactant | ethanolamine | 1.05 mole, about 64.8 grams | C(O)CN | C2H7NO
catalyst | cadmium acetate dihydrate | 0.025 mole, about 6.2 grams | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 2-(n-Butyl)-2-Oxazoline | C(CCC)C=1OCCN1 | C7H13NO
